*
**********************************************************
*
* PMBT3904YS
*
* NXP Semiconductors
*
* NPN switching transistor
* IC   = 200 mA
* VCEO = 40 V 
* hFE  = 100 - 300  @ 1V/10mA
*
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 363
* 
* Package Pin 1;4: Emitter   TR1;TR2
* Package Pin 2;5: Base      TR1;TR2  
* Package Pin 3;6: Collector TR2;TR1
*
*
* Extraction date (week/year): 18/2011 
* Simulator: Spice 3
*
**********************************************************
*#
* Please note: The following model is to be used twice in 
* schematic due to equality of both transistors.
*
.SUBCKT PMBT3904YS 1 2 3
*
Q1 1 2 3 MAIN
D1 2 1 DIODE
*
* The diode is dedicated to improve modeling of
* reverse mode operation and do not reflect
* a physical device.
*
.MODEL MAIN NPN
+ IS = 2.83E-015
+ NF = 0.9876
+ ISE = 5.715E-016
+ NE = 1.301
+ BF = 190
+ IKF = 0.08511
+ VAF = 20.23
+ NR = 0.9924
+ ISC = 1.531E-011
+ NC = 1.439
+ BR = 20.5
+ IKR = 1000
+ VAR = 15.83
+ RB = 24.44
+ IRB = 0.000109
+ RBM = 2.861
+ RE = 0.7001
+ RC = 0.3319
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 6.574E-012
+ VJE = 0.3993
+ MJE = 0.3026
+ TF = 2.4E-010
+ XTF = 10
+ VTF = 2
+ ITF = 0.15
+ PTF = 0
+ CJC = 2.727E-012
+ VJC = 0.3868
+ MJC = 0.2389
+ XCJC = 1
+ TR = 2.2E-007
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78
.MODEL DIODE D
+ IS = 3.799E-015
+ N = 0.9131
+ BV = 1000
+ IBV = 0.001
+ RS = 3941
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3
.ENDS

