* PSpice Model Editor - Version 16.0.0
*$
* TPS28225
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: TPS28225
* Date: 09MAR2012
* Model Type: Transient
* Simulator: PSpice
* Simulator Version: 16.2.0.p001
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLUS710C - MAY 2006 - REVISED APRIL 2010
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
.SUBCKT TPS28225 PWM LGATE VDD UGATE EN/PG PHASE BOOT GND
C_C1         0 PWM  1p  
R_U1_R1         EN/PG U1_N234663  1k TC=0,0 
X_U1_U10         UVLO_B U1_N233628 U1_N240930 U1_N236107 AND3_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U1_U12         UVLO_B U1_N233628 RESET NAND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
R_U1_R2         0 U1_N234663  1Meg TC=0,0 
X_U1_U1         U1_N236107 EN_INT DELAY PARAMS:  RINP=1K DELAY=13n
V_U1_V1         U1_N233297 0 {UVLO}
V_U1_V2         U1_N233309 0 {UVLO_HYS}
X_U1_U9         U1_N234663 U1_N233554 U1_N233558 U1_N233628 COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U1_U8         VDD U1_N233297 U1_N233309 UVLO_B COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
V_U1_V3         U1_N233554 0 1.7
X_U1_U11         N14490358 U1_N240930 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
V_U1_V4         U1_N233558 0 0.7
X_U1_S1    UVLO_B 0 U1_N234663 0 LOGIC_U1_S1 
R_U3_R7         PHASE UGATE  10E6 TC=0,0 
X_U3_U6         U3_N14490540 LGATE U3_N14490135 COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
V_U3_V2         U3_N14491144 PHASE 0.7
V_U3_V1         U3_N14490540 GND 0.7
X_U3_U4         U3_N14490892 EN_INT U3_N14489416 U3_INL AND3_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
R_U3_R6         GND LGATE  10E6 TC=0,0 
M_U3_U1_M2         U3_U1_N226121 U3_U1_N225905 UGATE UGATE PMOS01           
V_U3_U1_V1         U3_U1_N14486584 BOOT 0.95
X_U3_U1_U1         U3_INH U3_U1_N226273 DELAY PARAMS:  RINP=1K DELAY=10n
C_U3_U1_C3         UGATE U3_U1_N225881  10p  
R_U3_U1_R1         U3_U1_N225861 U3_U1_N225881  20  
R_U3_U1_R2         U3_U1_N225901 U3_U1_N225905  20  
C_U3_U1_C5         UGATE BOOT  10pF  
C_U3_U1_C4         PHASE UGATE  10pF  
R_U3_U1_R4         BOOT U3_U1_N225909  0.02  
R_U3_U1_R5         U3_U1_N226121 PHASE  .02  
E_U3_U1_E1         U3_U1_N225861 UGATE VALUE { IF(V(U3_U1_N226273, 0) > 0.5, 5,
+  -5) }
D_U3_U1_D1         VDD U3_U1_N14486584 DD 
M_U3_U1_M1         U3_U1_N225909 U3_U1_N225881 UGATE UGATE NMOS01           
E_U3_U1_E2         UGATE U3_U1_N225901 VALUE { IF(V(U3_U1_N226273, 0) > 0.5,
+  -5, 5) }
C_U3_U1_C1         U3_U1_N225881 U3_U1_N225909  5p  
C_U3_U1_C6         UGATE U3_U1_N225905  10p  
C_U3_U1_C2         U3_U1_N226121 U3_U1_N225905  5p  
X_U3_U7         U3_N14491144 UGATE U3_N14490892 COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_U3_U2_U1         U3_INL U3_U2_N14486914 DELAY PARAMS:  RINP=1K DELAY=12n
C_U3_U2_C3         LGATE U3_U2_N14486532  10p  
R_U3_U2_R1         U3_U2_N14486528 U3_U2_N14486532  20  
M_U3_U2_M2         U3_U2_N14486760 U3_U2_N14486572 LGATE LGATE PMOS02          
+  
R_U3_U2_R2         U3_U2_N14486552 U3_U2_N14486572  20  
C_U3_U2_C5         LGATE VDD  10pF  
R_U3_U2_R4         VDD U3_U2_N14486576  0.02  
C_U3_U2_C4         GND LGATE  10pF  
R_U3_U2_R5         U3_U2_N14486760 GND  .02  
E_U3_U2_E1         U3_U2_N14486528 LGATE VALUE { IF(V(U3_U2_N14486914, 0) >
+  0.5, 5, -5) }
E_U3_U2_E2         LGATE U3_U2_N14486552 VALUE { IF(V(U3_U2_N14486914, 0) >
+  0.5, -5, 5) }
M_U3_U2_M1         U3_U2_N14486576 U3_U2_N14486532 LGATE LGATE NMOS01          
+  
C_U3_U2_C6         LGATE U3_U2_N14486572  10p  
C_U3_U2_C1         U3_U2_N14486532 U3_U2_N14486576  5p  
C_U3_U2_C2         U3_U2_N14486760 U3_U2_N14486572  5p  
X_U3_U5         PWM_INT U3_N14489416 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U3_U3         EN_INT PWM_INT U3_N14490135 U3_INH AND3_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
R_U2_R5         U2_PULL_UP U2_N409833  10 TC=0,0 
X_U2_U33         N14490358 U2_N404434 rising_oneshot PARAMS:  PULSE=20n VDD=1
+  VSS=0 VTHRESH=0.5
R_U2_R1         PWM U2_N314404  27k TC=0,0 
E_U2_U123_GAIN1         U2_U123_N420946 0 VALUE {1 * V(U2_N404742)}
X_U2_U123_S2    U2_U123_N418981 0 U2_U123_N418837 U2_U123_N418755
+  DELAY_U2_U123_S2 
X_U2_U123_U43         U2_U123_N418755 U2_WINDOW_LO BUF_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
R_U2_U123_R1         U2_U123_N420946 U2_U123_N418755  1.414 TC=0,0 
X_U2_U123_U44         U2_N404742 U2_WINDOW_LO U2_U123_N418981 AND2_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
C_U2_U123_C1         0 U2_U123_N418755  {50n}  
X_U2_U123_U46         U2_WINDOW_LO U2_N404742 U2_U123_N419003 NOR2_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
X_U2_U123_S1    U2_U123_N419003 0 U2_U123_N418755 0 DELAY_U2_U123_S1 
V_U2_U123_V4         U2_U123_N418837 0 1
X_U2_U9         PWM U2_3STAGE_HIGH_THRESH U2_N256290 PWM_INT COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
V_U2_V3         U2_N359622 0 1
X_U2_U21         U2_3STAGE_HIGH_THRESH PWM U2_WINDOW_HI COMP_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
X_U2_U42         U2_N404784 U2_N404528 N404808 U2_N404640 SRLATCHSHP_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U2_U1_U42         U2_N404904 U2_U1_N414301 falling_delay PARAMS:  DELAY=160n
+  VDD=1 VSS=0 VTHRESH=0.5
X_U2_U1_U34         N14490358 U2_TS_B INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U2_U1_U41         U2_U1_N374273 U2_N404816 N14490358 N374691
+  SRLATCHSHP_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U2_U1_U32         U2_U1_N414301 U2_N404904 U2_U1_N374273 NOR2_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
C_U2_C1         0 U2_PWM_PEAK  1n  
R_U2_R2         U2_N300132 PWM  13k TC=0,0 
D_U2_D3         VDD U2_N419183 DD 
V_U2_V7         U2_N404724 0 1
X_U2_U34         UVLO_B U2_N404516 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U2_S3    U2_N359622 0 U2_N300132 0 INPUT_STAGE_U2_S3 
X_U2_S2    U2_N409833 0 VDD U2_N314404 INPUT_STAGE_U2_S2 
X_U2_U35         U2_N404434 U2_N404516 U2_N404528 OR2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
R_U2_R3         PWM U2_N419183  460k TC=0,0 
V_U2_V1         U2_N279611 0 2.7
X_U2_U30         U2_WINDOW_HI U2_WINDOW_LO U2_N404812 NAND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U2_S1    N14490358 0 U2_PWM_PEAK U2_N279611 INPUT_STAGE_U2_S1 
X_U2_U22         PWM U2_N404724 U2_N404742 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U2_U40         U2_TS_B U2_WINDOW_LO U2_PULL_UP NAND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
R_U2_R4         0 PWM  340k TC=0,0 
X_U2_U38         U2_N404742 U2_N404784 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_U2_GAIN1         U2_3STAGE_HIGH_THRESH 0 VALUE {0.74 * V(U2_PWM_PEAK)}
C_U2_C2         0 U2_N409833  1n  
X_U2_U41         U2_N404630 U2_N404528 U2_N404816 N404834 SRLATCHSHP_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U2_S4    N14490358 0 U2_PWM_PEAK U2_N440025 INPUT_STAGE_U2_S4 
D_U2_D2         U2_N279611 U2_PWM_PEAK DD 
D_U2_D1         U2_N322477 U2_N440025 DD 
X_U2_U31         U2_N404812 UVLO_B U2_N404904 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U2_U37         U2_N404640 U2_WINDOW_HI U2_N404630 NOR2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
E_U2_GAIN2         U2_N322477 0 VALUE {1 * V(PWM)}
E_U2_ABM1         U2_N256290 0 VALUE { V(U2_3STAGE_HIGH_THRESH) - 1    }
X_U2_U39         U2_TS_B U2_WINDOW_HI U2_PULL_DN AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
.PARAM  uvlo_hys=0.5 uvlo=3.5
.ENDS TPS28225
*$
.subckt LOGIC_U1_S1 1 2 3 4  
S_U1_S1         3 4 1 2 _U1_S1
RS_U1_S1         1 2 1G
.MODEL         _U1_S1 VSWITCH Roff=1e9 Ron=1k Voff=0.8 Von=0.2
.ends LOGIC_U1_S1
*$
.subckt DELAY_U2_U123_S2 1 2 3 4  
S_U2_U123_S2         3 4 1 2 _U2_U123_S2
RS_U2_U123_S2         1 2 1G
.MODEL         _U2_U123_S2 VSWITCH Roff=100e6 Ron=1m Voff=0.2 Von=0.8
.ends DELAY_U2_U123_S2
*$
.subckt DELAY_U2_U123_S1 1 2 3 4  
S_U2_U123_S1         3 4 1 2 _U2_U123_S1
RS_U2_U123_S1         1 2 1G
.MODEL         _U2_U123_S1 VSWITCH Roff=100e6 Ron=1m Voff=0.2 Von=0.8
.ends DELAY_U2_U123_S1
*$
.subckt INPUT_STAGE_U2_S3 1 2 3 4  
S_U2_S3         3 4 1 2 _U2_S3
RS_U2_S3         1 2 1G
.MODEL         _U2_S3 VSWITCH Roff=1e9 Ron=20k Voff=0.2 Von=0.8
.ends INPUT_STAGE_U2_S3
*$
.subckt INPUT_STAGE_U2_S2 1 2 3 4  
S_U2_S2         3 4 1 2 _U2_S2
RS_U2_S2         1 2 1G
.MODEL         _U2_S2 VSWITCH Roff=1e9 Ron=3k Voff=0.2 Von=0.8
.ends INPUT_STAGE_U2_S2
*$
.subckt INPUT_STAGE_U2_S1 1 2 3 4  
S_U2_S1         3 4 1 2 _U2_S1
RS_U2_S1         1 2 1G
.MODEL         _U2_S1 VSWITCH Roff=1e9 Ron=1k Voff=0.2 Von=0.8
.ends INPUT_STAGE_U2_S1
*$
.subckt INPUT_STAGE_U2_S4 1 2 3 4  
S_U2_S4         3 4 1 2 _U2_S4
RS_U2_S4         1 2 1G
.MODEL         _U2_S4 VSWITCH Roff=1e9 Ron=1m Voff=0.8 Von=0.2
.ends INPUT_STAGE_U2_S4
*$
.model NMOS01 NMOS
+ VTO     = 2
+ KP      = 0.444
+ LAMBDA  = 0.001
*$
.model PMOS01 PMOS
+ VTO     = -2
+ KP      = 0.444
+ LAMBDA  = 0.001
*$
.model PMOS02 PMOS
+ VTO     = -2
+ KP      = 0.889
+ LAMBDA  = 0.001
*$
.SUBCKT DELAY INP OUT PARAMS: RINP = 1k DELAY = 10n 
R1 INP 101 {RINP}
C1 101 102 { 1.4427 * DELAY / RINP }
E1 102   0 OUT   0 0.5
E2 OUT   0 VALUE {IF(V(101) > 0.5, 1, 0)}
.ENDS DELAY
*$
.SUBCKT AND3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH} &
+ V(C) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND3_BASIC_GEN
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
E_ABM Yint 0 VALUE {IF (V(INP) > 
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.MODEL DD D( IS=1F N=0.01 TT = 10p )
*$
*$
.SUBCKT RISING_DELAY IN OUT PARAMS: DELAY=100n VDD=1 VSS=0 VTHRESH=0.5
D_D1         INT IN DD 
R_R1         IN INT  {DELAY/(0.693 * 1E-9)}  
C_C1         0 INT  1n  
X_U1         INT OUT BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH=
+ {VTHRESH}
.MODEL DD D( IS=1F N=0.01 TT = 10p )
.ENDS RISING_DELAY
*$
.SUBCKT FALLING_ONESHOT IN OUT PARAMS: PULSE=100n VDD=1 VSS=0 VTHRESH=0.5
R_R1         IN INT  {PULSE/(0.693 * 1E-9)}  
X_U1         IN_B INT OUT AND2_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH=
+ {VTHRESH}
C_C1         0 INT  1n  
D_D1         IN INT DD 
X_U3         IN IN_B INV_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH=
+ {VTHRESH}
S_S1 OUT 0 IN 0 S1
.MODEL         S1 VSWITCH Roff=100e6 Ron=1e-3 Voff=0.45V Von=0.55V
.MODEL DD D( IS=1F N=0.01 TT = 10p )
.ENDS FALLING_ONESHOT
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT NAND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NAND2_BASIC_GEN
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$
**Reset has higher priority in this latch
.SUBCKT SRLATCHRHP_BASIC_GEN S R Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
GQ 0 Qint VALUE = {IF(V(R) > {VTHRESH},-5,IF(V(S)>{VTHRESH},5, 0))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1 
Cdummy1 Q 0 1n 
Cdummy2 QB 0 1n
.IC V(Qint) {VSS}
.ENDS SRLATCHRHP_BASIC_GEN
*$
.MODEL D_D1 D( IS=1e-15 TT=10p Rs=0.05 N=.1  )
*$
.SUBCKT MUX2_BASIC_GEN A B S Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE  YINT 0 VALUE {{IF(V(S) > {VTHRESH},  
+ V(B),V(A))}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS MUX2_BASIC_GEN
*$
.SUBCKT NOR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NOR2_BASIC_GEN
*$
.SUBCKT INV_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n 
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS INV_DELAY_BASIC_GEN
*$
.SUBCKT RISING_ONESHOT IN OUT PARAMS: PULSE=100n VDD=1 VSS=0 VTHRESH=0.5
D_D1         INT IN DD 
C_C1         0 INT  1n  
X_U22         INT IN_B_DELAYED INV_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS}
+  VTHRESH={VTHRESH}
R_R1         IN INT  {PULSE/(0.693 * 1E-9)}  
X_U1         IN IN_B_DELAYED OUT AND2_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS}
+  VTHRESH={VTHRESH}
.MODEL DD D( IS=1F N=0.01 TT = 10p )
.ENDS RISING_ONESHOT
*$
**Set has higher priority in this latch
.SUBCKT SRLATCHSHP_BASIC_GEN S R Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
GQ 0 Qint VALUE = {IF(V(S) > {VTHRESH},5,IF(V(R)>{VTHRESH},-5, 0))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1 
Cdummy1 Q 0 1n 
Cdummy2 QB 0 1n 
.IC V(Qint) {VSS}
.ENDS SRLATCHSHP_BASIC_GEN
*$
.SUBCKT FALLING_DELAY IN OUT PARAMS: DELAY=100n VDD=1 VSS=0 VTHRESH=0.5
X_U1         INT OUT BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH=
+ {VTHRESH}
R_R1         IN INT  {DELAY/(0.693 * 1E-9)}  
C_C1         0 INT  1n  
D_D1         IN INT DD 
.MODEL DD D( IS=1F N=0.01 TT = 10p )
.ENDS FALLING_DELAY
*$

